US07994205B2
1-[(3-methoxyphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde
To a solution of 2-phenyl-1H-imidazole-4-carbaldehyde (520 mg) in tetrahydrofuran (100 mL) was added sodium hydride (60% in oil, 182 mg) at room temperature, and the mixture was stirred for 30 min. 3-Methoxybenzenesulfonyl chloride (750 mg) was added to the reaction mixture, and the mixture was stirred for 1.5 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from diethyl ether to give the title compound as colorless crystals (yield 894 mg, 87%).

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | 520 mg | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | sodium hydride | 182 mg | [H-].[Na+]
reactant | 3-Methoxybenzenesulfonyl chloride | 750 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-[(3-methoxyphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde | yield 894 mg, 87% | COC=1C=C(C=CC1)S(=O)(=O)N1C(=NC(=C1)C=O)C1=CC=CC=C1 | C17H14N2O4S
